* top8
.tran 1n 5m
Vin in 0 9
M1 in gate sw 0 NMOS W=2 L=2
M2 in gate2 sw2 0 NMOS W=2 L=2
D1 0 sw DIODE
D2 0 sw2 DIODE
L1 sw out 22u
L2 sw2 out 22u
C1 out 0 470u
Rload out 0 1.0204
Vgate gate 0 PULSE(0 9 0 1n 1n 1e-6 2e-5)
Vgate2 gate2 0 PULSE(0 9 2e-5 1n 1n 1e-6 2e-5)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.probe V(*) I(*)
.end
